US04018922
37.7 g of 10-(3-chloropropyl)-2-trifluoromethyl-phenothiazine were dissolved in 100 ml of methyl ethyl ketone and 16.5 g of sodium iodide, 11.1 g of triethylamine and then 19 g of 2-(4-ethyl-4-piperidyloxy)-ethanol dissolved in 100 ml of methyl ethyl ketone were successively added thereto. The mixture was refluxed for 20 hours and after cooling, the precipitate formed was removed by vacuum filtration. The filtrate was evaporated to dryness and the residue was dissolved in methylene chloride. The organic solution was washed with an aqueous solution of sodium bicarbonate, then with water, dried and concentrated to dryness. The residue was dissolved in an ethanol-ether mixture to which was added an ether solution of hydrogen chloride. The precipitate formed was recovered by vacuum filtration and was crystallized from isopropanol, then from acetonitrile to obtain 27 g of 2-trifluoromethyl-10-[3-(4-β-hydroxyethoxy-4-ethyl-piperidino)-propyl]-phenothiazine hydrochloride as white crystals, melting at 204° C and soluble in chloroform, water, dilute hydrochloride acid and methylene chloride.

reactant | 10-(3-chloropropyl)-2-trifluoromethyl-phenothiazine | 37.7 g | ClCCCN1C2=CC=CC=C2SC=2C=CC(=CC12)C(F)(F)F | C16H13ClF3NS
reactant | triethylamine | 11.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-(4-ethyl-4-piperidyloxy)-ethanol | 19 g | C(C)C1(CCNCC1)OCCO | C9H19NO2
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
solvent | sodium iodide | 16.5 g | [I-].[Na+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 2-trifluoromethyl-10-[3-(4-β-hydroxyethoxy-4-ethyl-piperidino)-propyl]-phenothiazine hydrochloride | 27 g | Cl.FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCC(CC1)(CC)OCCO)(F)F | InChI=1S/C25H31F3N2O2S.ClH/c1-2-24(32-17-16-31)10-14-29(15-11-24)12-5-13-30-20-6-3-4-7-22(20)33-23-9-8-19(18-21(23)30)25(26,27)28;/h3-4,6-9,18,31H,2,5,10-17H2,1H3;1H
